US05795900
To a -78° C. solution in methylene chloride (15 mL) of 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy) phenyl)propan- -ol (0.4 g, 0.72 mmol), prepared as in step 1, and DMSO (0.17 g, 2.17 mmol) was added oxalyl chloride (0.14 g, 1.08 mmol) and the reaction mixture was stirred for 0.5 hours. Triethylamine (0.37 g, 3.6 mmol) was added via syringe, the ice bath was removed, and the reaction was allowed to warm to room temperature. The mixture was concentrated in vacuo and triturated with dry THF. The THF solution was filtered and washed with additional THF. The THF solution and washings were combined and concentrated in vacuo to give crude 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)propanal which was used without further purification for oxime formation.

reactant | 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy) phenyl)propan- -ol | 0.72 mmol, 0.4 g | CC(CO)(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C | C37H34N2O3
reactant | DMSO | 2.17 mmol, 0.17 g | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 1.08 mmol, 0.14 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Triethylamine | 3.6 mmol, 0.37 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-3,3-bis(4-(2-quinolylmethoxy)phenyl)propanal | CC(C=O)(C(C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C1=CC=C(C=C1)OCC1=NC2=CC=CC=C2C=C1)C | C37H32N2O3
